US08895117B2
An analogous synthesis to that described under 1.3. starting from 5-{4-[(4-{difluoro-[4-(5-hydroxypentyl)phenyl]methoxy}-2-methylphenoxy)difluoromethyl]phenyl}pentan-1-ol and methacryloyl chloride gives 5-{4-[(4-{[4-(5-methacryloyloxypentyl)phenyl]difluoromethoxy}-3-methylphenoxy)difluoromethyl]phenyl}pentyl methacrylate as a colourless solid of m.p. 26° C.

reactant | 5-{4-[(4-{difluoro-[4-(5-hydroxypentyl)phenyl]methoxy}-2-methylphenoxy)difluoromethyl]phenyl}pentan-1-ol | FC(OC1=CC(=C(OC(C2=CC=C(C=C2)CCCCCO)(F)F)C=C1)C)(C1=CC=C(C=C1)CCCCCO)F | C31H36F4O4
reactant | methacryloyl chloride | C(C(=C)C)(=O)Cl | C4H5ClO
product | 5-{4-[(4-{[4-(5-methacryloyloxypentyl)phenyl]difluoromethoxy}-3-methylphenoxy)difluoromethyl]phenyl}pentyl methacrylate | C(C(=C)C)(=O)OCCCCCC1=CC=C(C=C1)C(F)(F)OC1=CC(=C(C=C1)OC(F)(F)C1=CC=C(C=C1)CCCCCOC(C(=C)C)=O)C | C39H44F4O6
